US09422271B2
To the solution of 2-(thiophen-2-yl)pyrimidin-4-ol (100 mg, 0.56 mmol) in HOAc (3 mL) was added NCS (90 mg, 0.67 mmol, 1.2 equiv.) portionwise. The reaction mixture was stirred at 60° C. for 4 h and partitioned between brine and ethylacetate. The organic layer was washed with saturated NaHCO3, brine, dried over Na2SO4, filtered and concentrated. The residue was purified by flash column chromatography to give 5-chloro-2-(thiophen-2-yl)pyrimidin-4-ol (90 mg, 75%). LC-MS (m/z)=213.0 [M+H]+.

reactant | 2-(thiophen-2-yl)pyrimidin-4-ol | 0.56 mmol, 100 mg | S1C(=CC=C1)C1=NC=CC(=N1)O | C8H6N2OS
reactant | NCS | 0.67 mmol, 90 mg, 1.2 equiv. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | HOAc | 3 mL | CC(=O)O | C2H4O2
product | 5-chloro-2-(thiophen-2-yl)pyrimidin-4-ol | 90 mg, 75% | ClC=1C(=NC(=NC1)C=1SC=CC1)O | C8H5ClN2OS
